Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.05358700488
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.90041688308
[O:1]=[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11],2.36420407809
[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8].[H:9]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-2.6155472861099995
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-4.02866160589
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:9][H:10],2.2798324681
[H:1][C:2]#[C:3][C:4]1[C:5][C:7]([H:8])[C:9]1([H:10])[H:11].[H:6]>>[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-5.06096052186
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11],-3.88508362293
[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.89134605037
[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[C:2][C:3]([H:4])([H:5])[H:6].[H:1],3.71450151809
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],2.14902854065
[H:10].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.61792582809
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],3.01107859101
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1],3.4609101959500004
[H:11].[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.65680929699
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.781122329130002
[O:1]=[C:2]=[C:10]([C@@:4]([O:3])([H:5])[C:6]([H:7])([H:8])[H:9])[H:11]>>[O:1]=[C:2]1[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1[H:11],-1.0119570567899998
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][H:6],1.17381576203
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.54063100136
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14].[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.65944852984
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.1496256721
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],3.82201470296
[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[C:2]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.76322410859
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]=[C:5]1[O:6][C:7]1=[C:8]([H:9])[H:10],-2.37480250701
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.7527624072400014
[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.54593177752
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.726954060340001
[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],1.4298034411899998
[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-7.46256759979
